US07304081B2
(1R)-1′-({1-[4-(2-Oxo-1,3-oxazolidin-3-yl)phenyl]cyclobutyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
To a solution of (1R)-1′-{[1-(4-bromophenyl)cyclobutyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (20.7 mg, 0.0000485 mol) and oxazolidin-2-one (12.7 mg, 0.000146 mol) in freshly distilled toluene (0.34 mL, 0.0032 mol), were added tris(dibenzylidene acetone)dipalladium(0) (4.4 mg, 0.0000048 mol), tri-tert-butylphosphine (2.0 mg, 0.0000097 mol) and cesium carbonate (15.8 mg, 0.0000485 mol), and the mixture was heated to 50° C. overnight. The reaction mixture then was cooled to rt, filtered over celite and concentrated under reduced pressure. The crude product was purified by prep-HPLC. LC/MS (M+H) 433.2.

reactant | (1R)-1′-{[1-(4-bromophenyl)cyclobutyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.0000485 mol, 20.7 mg | BrC1=CC=C(C=C1)C1(CCC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C22H20BrNO3
reactant | oxazolidin-2-one | 0.000146 mol, 12.7 mg | O1C(NCC1)=O | C3H5NO2
reactant | toluene | 0.0032 mol, 0.34 mL | C1(=CC=CC=C1)C | C7H8
reactant | tri-tert-butylphosphine | 0.0000097 mol, 2.0 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | cesium carbonate | 0.0000485 mol, 15.8 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylidene acetone)dipalladium(0) | 0.0000048 mol, 4.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1R)-1′-({1-[4-(2-Oxo-1,3-oxazolidin-3-yl)phenyl]cyclobutyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | O=C1OCCN1C1=CC=C(C=C1)C1(CCC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C25H24N2O5
